US08735390B2
5-Bromo-2-methoxypyridin-3-amine hydrochloride (100 g, 1 wt, 1 eq) is charged to a CLR containing a mixture of acetonitrile (220 mL, 2.2 vols) and pyridine (101 mL, 1.01 vols, 99 g, 0.99 wt) at room temperature. Methanesulfonyl chloride (56.4 g, 0.564 wt, 1.18 eq) is then added to the mixture over 20 minutes whilst maintaining the temperature at 20° C. Having stirred at 20° C. for a further 1.5 hours, the mixture is sampled and analysed by HPLC. The completed reaction is quenched by the addition of water over 1 hour, maintaining the mixture at 20° C. and with increased stirrer speed. The resulting slurry is stirred for 17 hours and then filtered in vacuo. The cake is washed with 3:1 water:acetonitrile (2×50 mL, 2×0.5 vols) and then dried under vacuum at 40-45° C. to afford N-(5-bromo-2-methoxypyridin-3-yl)methanesulfonamide.

reactant | 5-Bromo-2-methoxypyridin-3-amine hydrochloride | 100 g, 1 eq | Cl.BrC=1C=C(C(=NC1)OC)N
reactant | acetonitrile | 220 mL | C(C)#N | C2H3N
reactant | Methanesulfonyl chloride | 56.4 g, 1.18 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 101 mL, 99 g | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-2-methoxypyridin-3-yl)methanesulfonamide | BrC=1C=C(C(=NC1)OC)NS(=O)(=O)C | C7H9BrN2O3S
